US07291641B2
(1R)-N-benzyl-2-(1H-indol-3-yl)-N-methyl-1-(4-phenyl-1H-imidazol-2-yl)ethanamine
(1R)-N-benzyl-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethanamine (0.5 g; 0.00127 mol; prepared under experimental conditions similar to that of Example 38 and using suitable starting reagents and reaction products) is diluted in 25 ml of tetrahydrofuran. Methyl tosylate (0.24 g; 0.00127 mol) is added to the previous solution at 23° C. then potassium tert-butylate (0.15 g; 0.00127 mol) is added fairly slowly. Stirring is maintained for two hours at 23° C. then the mixture is heated to about 60° C. for eight hours. The solvent is evaporated off and the residue obtained taken up in ethyl acetate and a 10% solution of sodium bicarbonate. After decantation, the organic phase is washed with water and dried over magnesium sulphate. The solvent is then evaporated off. After purification on a silica column (eluent: ethyl acetate-heptane/7-3), a light beige-coloured solid is obtained in the form of a paste (yield of 4%). Free base. Melting point: 110-112° C.

reactant | (1R)-N-benzyl-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethanamine | C(C1=CC=CC=C1)N[C@H](CC1=CNC2=CC=CC=C12)C=1NC=C(N1)C1=CC=CC=C1 | C26H24N4
reactant | Methyl tosylate | 0.00127 mol, 0.24 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | potassium tert-butylate | 0.00127 mol, 0.15 g | CC(C)(C)[O-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R)-N-benzyl-2-(1H-indol-3-yl)-N-methyl-1-(4-phenyl-1H-imidazol-2-yl)ethanamine | yield of 4% | C(C1=CC=CC=C1)N([C@H](CC1=CNC2=CC=CC=C12)C=1NC=C(N1)C1=CC=CC=C1)C | C27H26N4
